US08022222B2
tert-Butyl 4-(5-(4-(5-((2-(dimethylamino)ethyl)carbamoyl)-2,4-dimethylpyridin-3-yloxy)-5-bromopyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate (0.025 g, 0.037 mmol) was dissolved in a mixture of methanol:dichloromethane (1 mL each). HCl (4N in dioxane, 0.5 mL, 2.0 mmol) was added. The reaction stirred overnight. The solution was concentrated to give 5-(5-bromo-2-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)pyridin-4-yloxy)-N-(2-(dimethylamino)ethyl)-4,6-dimethylnicotin-amide dihydrochloride (0.028 g, 100% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.87-1.93 (m, 2H), 2.06-2.14 (m, 2H), 2.22 (s, 3H), 2.34 (s, 3H), 2.83 (s, 3H), 2.84 (s, 3H), 2.96-3.08 (m, 2H), 3.23-3.32 (m, 4H), 3.44-2.52 (m, 1H), 3.62-3.73 (m, 2H), 6.37 (s, 1H), 8.64 (s, 1H), 8.67 (s, 1H), 8.70 (s, 1H), 9.0 (s, 1H), 9.03 (t, 1H), 10.50 (s, 1H), 11.88 (s, 1H).

reactant | tert-Butyl 4-(5-(4-(5-((2-(dimethylamino)ethyl)carbamoyl)-2,4-dimethylpyridin-3-yloxy)-5-bromopyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate | 0.037 mmol, 0.025 g | CN(CCNC(=O)C=1C(=C(C(=NC1)C)OC1=CC(=NC=C1Br)NC1=NC(=NS1)C1CCN(CC1)C(=O)OC(C)(C)C)C)C | C29H39BrN8O4S
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
reactant | HCl | 2.0 mmol, 4N, 0.5 mL | Cl | ClH
solvent | methanol | CO | CH4O
product | 5-(5-bromo-2-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)pyridin-4-yloxy)-N-(2-(dimethylamino)ethyl)-4,6-dimethylnicotin-amide dihydrochloride | 0.028 g, 100% yield | Cl.Cl.BrC=1C(=CC(=NC1)NC1=NC(=NS1)C1CCNCC1)OC=1C(=NC=C(C(=O)NCCN(C)C)C1C)C | InChI=1S/C24H31BrN8O2S.2ClH/c1-14-17(23(34)27-9-10-33(3)4)12-28-15(2)21(14)35-19-11-20(29-13-18(19)25)30-24-31-22(32-36-24)16-5-7-26-8-6-16;;/h11-13,16,26H,5-10H2,1-4H3,(H,27,34)(H,29,30,31,32);2*1H
